US06174874B1
Step 1 2,2-bis(4-bromobenzyl)-1,3-propanediol
To dimethyl malonate (6.60 g, 50 mmol) in DMF (100 mL) was added NaH (2.00 g, 50 mmol) and 4-bromomethyl bromobenzene (25 g, 100 mmol). After a period of 6 h at room temperature, 200 mL of saturated NH4Cl and 200 mL of H2O were added. The crude product was extracted with a mixture of toluene and ether, dried over Na2SO4, filtered and evaporated. To the oil dissolved in THF (300 mL) at 0° C. LAH (4.5 g) was added. After a period of 2 h at room temperature, the reaction was quenched with 20 mL of acetone and 300 mL of 20% potassium, sodium tartrate. The compound was extracted with EtOAc, dried over Na2SO4, evaporated and purified by flash chromatography to provide 19 g of material.

reactant | dimethyl malonate | 50 mmol, 6.60 g | C(CC(=O)OC)(=O)OC | C5H8O4
reactant | NaH | 50 mmol, 2.00 g | [H-].[Na+]
reactant | 4-bromomethyl bromobenzene | 100 mmol, 25 g | BrCC1=CC=C(C=C1)Br | C7H6Br2
reactant | NH4Cl | 200 mL | [NH4+].[Cl-]
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | H2O | 200 mL | O | H2O
product | 2,2-bis(4-bromobenzyl)-1,3-propanediol | 19 g | BrC1=CC=C(CC(CO)(CO)CC2=CC=C(C=C2)Br)C=C1 | C17H18Br2O2
